US09334278B2
To a solution of N-tert-butyl-3-chloro-2-(3-methylisothiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (40 mg, 80.8 μmol) in dichloromethane (1.5 mL) was added trifluoroacetic acid (184 mg, 124 μL, 1.62 mmol) and the mixture stirred at room temperature for 16 h. The mixture was concentrated then re-dissolved in dichloromethane (1.5 mL), methanol (0.75 mL) and ammonium hydroxide (0.2 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated in vacuo then triturated with water and filtered. The solid obtained was washed with ether then dried to give N-tert-butyl-3-chloro-2-(3-methylisothiazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (15 mg, 37.0 μmol, 46%) as a dark orange solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.76 (s, 1H), 10.91 (s, 1H), 8.30 (d, J=3.2, 1 H), 7.33 (s, 1H), 7.13 (s, 1H), 2.42 (s, 3H), 1.62 (s, 9H); MS (EI/CI) m/z: 365.0 [M+H].

reactant | N-tert-butyl-3-chloro-2-(3-methylisothiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 80.8 μmol, 40 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC(=C(N=C21)NC2=CC(=NS2)C)Cl)COCC[Si](C)(C)C | C21H31ClN6O2SSi
reactant | trifluoroacetic acid | 1.62 mmol, 124 μL, 184 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-tert-butyl-3-chloro-2-(3-methylisothiazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 37.0 μmol, 15 mg, 46% | C(C)(C)(C)NC(=O)C1=CNC2=NC(=C(N=C21)NC2=CC(=NS2)C)Cl | C15H17ClN6OS
